### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/LinearIndependent): `linearIndependent_iffₒₛ` etc for linearly and canonically ordered semiring

### PR DESCRIPTION
**Pull request by staroperator**
If the semiring `R` is linearly and canonically ordered (e.g. `R = ℕ`), `LinearIndependent` can be proved from linear combination over two disjoint sets.

This result is stronger than `linearIndependent_iff'ₛ` and is particularly useful in #27342.

---

- [x] depends on: #27340
- [x] depends on: #27639

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean [hunk 1]
```diff
@@ -623,6 +624,119 @@ theorem LinearIndependent.maximal_iff {ι : Type w} {R : Type u} [Semiring R] [N
...
+/-!
+### Properties which require `LinearOrder R`, `CanonicallyOrderedAdd R` and `OrderedSub R`
+
+If the semiring `R` is linearly and canonically ordered and admits ordered subtraction (e.g.
+`R = ℕ`), `LinearIndependent` can be proved from linear combination over two disjoint sets.
+-/
+
+section LinearlyCanonicallyOrdered
+
+variable [LinearOrder R] [CanonicallyOrderedAdd R] [AddLeftMono R] [Sub R] [OrderedSub R]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: @YaelDillies, do you know whether this is preferred vs
```suggestion
variable [LinearOrder R] [CanonicallyOrderedAdd R] [AddLeftMono R] [AddRightReflectLE R]
```
and a API-ified version of
```lean-4
    let : Sub R := ⟨fun x y => if h : y ≤ x then (exists_add_of_le h).choose else 0⟩
    let : OrderedSub R := ⟨fun a b c => by
      change dite _ _ _ ≤ c ↔ _
      split
      · have h := ‹b ≤ a›
        generalize_proofs h2
        have := h2.choose_spec
        rw [this] at h
        conv_rhs => rw [this, add_comm]
        rw [add_le_add_iff_right]
      · have h := ‹¬(b ≤ a)›
        rw [not_le] at h
        have := h.le
        rw [← zero_add a]
        constructor
        · intro h
          simpa using add_le_add h this
        · intro h
          exact zero_le c
          ⟩
```

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean [hunk 2]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Johannes Hölzl, Mario Carneiro, Alexander Bentkamp, Anne Baanen
 -/
 import Mathlib.LinearAlgebra.Finsupp.LinearCombination
+import Mathlib.Algebra.Order.Sub.Basic
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]:
```suggestion
import Mathlib.Algebra.Order.Sub.Basic
import Mathlib.LinearAlgebra.Finsupp.LinearCombination
```

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: The version without sub would be better

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: Do we have the `OrderedSub` instance above somewhere as a `theorem`?

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: Not that I can think

Comment (staroperator) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: Should we make a new PR for this? Or just add it here as a workaround?

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: A new PR would be best

Comment (staroperator) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: @eric-wieser I made some small modifications on your suggestion. Would you be OK if I make a PR for that and add you as a co-author?

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: @staroperator, not trying to speak for Eric, but generally Lean experts are very busy and boast many contributions already, so are happy to see people take their stuff and PR it for them.

File: Mathlib/Algebra/Order/Sub/Basic.lean [hunk 3]
```diff
@@ -199,3 +199,31 @@ lemma Even.tsub [AddLeftReflectLE α] {m n : α} (hm : Even m) (hn : Even n) :
...
 end CanonicallyLinearOrderedAddCommMonoid
+
+/-! ### `Sub` instance in linearly canonically ordered monoid using choice. -/
+
+namespace CanonicallyOrderedAdd
+
+variable [AddCommMonoid α] [LinearOrder α] [CanonicallyOrderedAdd α]
+
+/-- `Sub` instance in linearly canonically ordered monoid using choice. -/
+noncomputable def toSub : Sub α where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Sub/Basic.lean]:
```suggestion
@[reducible] -- See note [reducible non instances]
noncomputable def toSub : Sub α where
```

File: Mathlib/Algebra/Order/Sub/Basic.lean [hunk 4]
```diff
@@ -199,3 +199,31 @@ lemma Even.tsub [AddLeftReflectLE α] {m n : α} (hm : Even m) (hn : Even n) :
...
+  sub x y := if h : y ≤ x then (exists_add_of_le h).choose else 0
+
+attribute [local instance] toSub
+
+/-- The `Sub` instance using choice satisfies `OrderedSub`. -/
+theorem toSub.orderedSub [AddRightReflectLE α] : OrderedSub α where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Sub/Basic.lean]:
```suggestion
theorem toOrderedSub [AddRightReflectLE α] : OrderedSub α where
```

File: Mathlib/Algebra/Order/Sub/Basic.lean [hunk 5]
```diff
@@ -199,3 +199,31 @@ lemma Even.tsub [AddLeftReflectLE α] {m n : α} (hm : Even m) (hn : Even n) :
...
+    change dite _ _ _ ≤ c ↔ _
+    split_ifs with h
+    · have := (exists_add_of_le h).choose_spec
+      rw [this] at h
+      conv_rhs => rw [this, add_comm]
+      rw [add_le_add_iff_right]
+    · rw [not_le] at h
+      constructor <;> intro h'
+      · simpa using add_le_add h' h.le
+      · exact zero_le c
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Sub/Basic.lean]: This can probably be golfed

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean [hunk 6]
```diff
@@ -617,8 +618,129 @@ theorem LinearIndependent.maximal_iff {ι : Type w} {R : Type u} [Semiring R] [N
...
+
+If the semiring `R` is linearly and canonically ordered (e.g. `R = ℕ`), `LinearIndependent` can be
+proved from linear combination over two disjoint sets.
+-/
+
+section LinearlyCanonicallyOrdered
+
+variable [LinearOrder R] [CanonicallyOrderedAdd R] [AddRightReflectLE R] [IsCancelAdd M]
+
+theorem linearIndependent_iffₒ :
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: Sorry, I don't remember if we talked about this, but `\_0` is very surprising as a distinction between semirings and rings, since it is well established by now that it distinguishes groups with zero from groups. I believe some results already use `\_s` for your purpose, why not follow that?

Comment (staroperator) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: `ₒ` is `\_o` which is for canonically **O**rdered semiring (while `\_0` is `₀`). Personally I think `\_s` and `\_o` are both not good as names, but I would follow `\_s` in this PR.

Comment (staroperator) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: I can change it to `ₒₛ` if that is more clear for people.

File: Mathlib/Algebra/Order/Sub/Basic.lean (hunk 3 above)
Comment (staroperator) [reply Mathlib/Algebra/Order/Sub/Basic.lean]: Thanks! Updated in #27639.

File: Mathlib/Algebra/Order/Sub/Basic.lean (hunk 4 above)
Comment (staroperator) [reply Mathlib/Algebra/Order/Sub/Basic.lean]: Updated in #27639.

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: Then please try to stick to `\_s` for now, and if that causes issues then we can revisit later

Comment (staroperator) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: I mean `linearIndependent_iffₒ` is already following `linearIndependent_iffₛ`.

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean [hunk 7]
```diff
@@ -617,8 +618,130 @@ theorem LinearIndependent.maximal_iff {ι : Type w} {R : Type u} [Semiring R] [N
...
+  letI : Sub R := CanonicallyOrderedAdd.toSub
+  haveI : OrderedSub R := CanonicallyOrderedAdd.toOrderedSub
+  rw [linearIndependent_iff'ₛ]
+  refine ⟨fun h s t f hst heq => ?_, fun h s f g heq => ?_⟩
+  · specialize h (s ∪ t) (fun i => if i ∈ s then f i else 0) (fun i => if i ∈ t then f i else 0) ?_
+    · simpa
+    · refine ⟨fun i hi => ?_, fun i hi => ?_⟩
+      · simpa [hi, hst.notMem_of_mem_left_finset hi] using h i (Finset.mem_union_left _ hi)
+      · simpa [hi, hst.notMem_of_mem_right_finset hi] using (h i (Finset.mem_union_right _ hi)).symm
+  · specialize h (s.filter fun i => g i ≤ f i) (s.filter fun i => f i < g i)
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]:
```suggestion
  · specialize h {i ∈ s | g i ≤ f i} {i ∈ s | f i < g i}
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: > I can change it to `ₒₛ` if that is more clear for people.

I think that's the best for now. And please record this new convention in the module doc!

Comment (staroperator) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: > I think that's the best for now. And please record this new convention in the module doc!

Sorry, do you mean `ₒ` is best or `ₒₛ` is the best?

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: The latter

**Comment by JovanGerb** [comment]
What does the `ₒ` stand for in the theorem names? There are no other theorem names in mathlib that contain a subscript `o`.

**Comment by staroperator** [comment]
> What does the `ₒ` stand for in the theorem names? There are no other theorem names in mathlib that contain a subscript `o`.

`ₒ` is for "ordered". This is to follow the existing `ₛ` ended theorems...

**Comment by JovanGerb** [comment]
LGTM, I golfed the proofs a bit:
- I removed some unexpected `·` tactic focuses
- replaced `refine Finset.sum_congr` with the `congr!` tactic.
- replaced a big simp call with `set_option push_neg.use_distrib true in push_neg`

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean [hunk 8]
```diff
@@ -617,8 +623,129 @@ theorem LinearIndependent.maximal_iff {ι : Type w} {R : Type u} [Semiring R] [N
...
+    by_cases hi' : g i ≤ f i
+    · apply hi'.antisymm'
+      simpa [hi', tsub_eq_zero_iff_le] using h.1 i ⟨hi, hi'⟩
+    · apply (not_le.1 hi').le.antisymm
+      simpa [hi', tsub_eq_zero_iff_le] using h.2 i ⟨hi, not_le.1 hi'⟩
+
+theorem not_linearIndependent_iffₒₛ :
+    ¬ LinearIndependent R v ↔
+      ∃ (s t : Finset ι) (f : ι → R),
+        ∑ i ∈ s, f i • v i = ∑ i ∈ t, f i • v i ∧ Disjoint s t ∧ ∃ i ∈ s, 0 < f i := by
```
Comment (JovanGerb) [inline Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: Is there a reason why the equality and `Disjoint s t` are in the opposite order compared to the above lemma?

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/LinearIndependent/Defs.lean (hunk 8 above)
Comment (staroperator) [reply Mathlib/LinearAlgebra/LinearIndependent/Defs.lean]: My mistake. Will make `Disjoint` before equality in this theorem.
